US04536209
Production of N-[4-bromo-3-cyanomethoxyphenyl]-3,4,5,6-tetrahydrophthalimide
A mixture of 1.0 g. of chloroacetonitrile, 2.2 g. of potassium iodide and 25 ml. of acetone was stirred at room temperature for 1 hour and then, 3.5 g. of N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide and 1.8 g. of potassium carbonate were added and the mixture was refluxed with stirring for 5 hours. The solvent was distilled off under a reduced pressure and 2N-HCl was added to the residue to precipitate the product. The precipitate was separated by a filtration and washed with water and dried and recrystallized from ethanol to obtain 2.7 g. of Compound No. 229 shown in Table 1.

reactant | chloroacetonitrile | ClCC#N | C2H2ClN
reactant | potassium iodide | [I-].[K+]
reactant | N-(4-bromo-3-hydroxyphenyl)-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)O | C14H12BrNO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-[4-bromo-3-cyanomethoxyphenyl]-3,4,5,6-tetrahydrophthalimide | BrC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)OCC#N | C16H13BrN2O3
